Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Latex
 
Attending: ___
 
Chief Complaint:
Urinary tract infection
 
Major Surgical or Invasive Procedure:
___: Right Sided Midline Placed

 
History of Present Illness:
___ with history of Type II diabetes, ESRD s/p renal transplant 
in ___ and recurrent pulmonary infections presenting after 
recent diagnosis of UTI sensitive to IV antibiotics only.  
 Over the past 2 months, she has had increased suprapubic pain 
with burning on urination initially now chronically. She denies 
any recent fevers, chills, n/v or diarrhea. Has had back pain 
with her UTIs. She was treated last month with cefpodoxime 
however grew E coli at ___ in the setting of active 
treatment with cefpodoxime. She spoke to her nephrologist on 
___ who wanted her to drop a urine sample which ultimately grew 
E coli sensitive to ertapenem, meropenem, gentamicin and 
nitrofurantoin. Given that patient had UTI resistant to any PO 
antibiotics, she was referred in for evaluation.  
 Of note, the patient has a history of a chronic UTI as well as 
recurrent infections since her renal transplant. She was 
previously maintained on prophylactic Bactrim but has not been 
on Bactrim for over a year per patient. She has also recently 
started IVIG for immunoglobulin deficiencies, first dose 
approximately 3 weeks prior to admission.  
 In the ED, initial vitals were: 97.7 60 167/100 18 96%RA  
 Exam notable for: suprapubic tenderness and CVA tenderness 
bilaterally, kidney transplant in RLQ without tenderness to 
palpation. No edema in bilateral lower extremities.  
 Labs notable for: WBC 8.0 with 73% polys, Cr 1.0, total protein 
of 6.5. UA with 51 WBC, large leuks, nitrite positive and 30 
protein. Lactate 1.2. Blood and urine cultures sent.  
 Imaging notable for:  
 - Renal transplant ultrasound with mild-moderate hydronephrosis 
in transplant kidney, worse than seen on MRI for ___ with 
diffusely elevated resistive indices in the segmental and main 
renal arteries.  
 Patient was given Meropenem 500mg IV.  
 Transplant nephrology consulted and recommended continuing home 
meds, checking prograft level in AM and urine PCR as well as 
renal ultrasound and IV antibiotics.  
 Vitals prior to transfer: 98.2 56 189/83 18 99%RA  
 On the floor, patient confirms the above history. Reports she 
feels ok though has ongoing urinary frequency and urgency with 
dysuria. Denies fevers, chills.  

 
Past Medical History:
 Diabetes, insulin dependent, ? type I vs II  
 ESRD s/p Renal transplant in ___, baseline Cr  
 Hypertension  
 Hyperlipidemia  
 S/p gastric bypass  
 H/o GI bleed (lower, ___  
 Chronic cough, bronchiectasis s/p IVIG  
 Diabetic retinopathy  
 Anxiety/depression  
 Bipolar disorder  
 B12 deficiency  
 Gout  
 S/p TAH ___  
 Orthostatic hypotension  
 
Social History:
___
Family History:
No family history of diabetes or kidney disease  
 
Physical Exam:
ADMISSION EXAM
==================
Vital Signs: 97.8PO 181/66 R Sitting 58 18 100 RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, Well healed incision on RLQ without ttp, mild 
CVA tenderness on exam  
 GU: No foley  
 Ext: Warm, well perfused, 2+ DP pulses, no edema  
 Neuro: Grossly intact  

DISCHARGE EXAM
==================
Vital Signs: T98.1 PO 145-159/56-65 HR58-65 O2 97/RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated  
CV: RRR nl s1/s2, no m/r/g
Pulm: CTAB
Abdomen: Soft, nt/nd, well-healed incision on RLQ c/d/i, mild 
bilateral CVA tenderness
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, Well healed incision on RLQ without ttp, 
previous CVA tenderness resolved
GU: No foley  
Ext: Warm, well perfused, 2+ DP pulses, no edema  
 
Pertinent Results:
ADMISSION LABS
==================
___ 07:20PM BLOOD WBC-8.1 RBC-4.76 Hgb-13.5 Hct-43.7 MCV-92 
MCH-28.4 MCHC-30.9* RDW-14.2 RDWSD-47.7* Plt ___
___ 07:20PM BLOOD Neuts-73.0* Lymphs-17.0* Monos-7.4 
Eos-1.9 Baso-0.5 Im ___ AbsNeut-5.91 AbsLymp-1.38 
AbsMono-0.60 AbsEos-0.15 AbsBaso-0.04
___ 07:20PM BLOOD Plt ___
___ 07:20PM BLOOD Glucose-330* UreaN-14 Creat-1.0 Na-139 
K-4.4 Cl-103 HCO3-25 AnGap-15
___ 07:20PM BLOOD TotProt-6.5
___ 03:30AM BLOOD tacroFK-15.6
___ 07:28PM BLOOD Lactate-1.2

___ 05:24PM URINE Blood-NEG Nitrite-POS Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG
___ 05:24PM URINE RBC-2 WBC-51* Bacteri-MOD Yeast-NONE 
Epi-<1 TransE-<1
___ 05:24PM URINE Color-Straw Appear-Hazy Sp ___
___ 04:18PM URINE Hours-RANDOM Creat-31 TotProt-14 
Prot/Cr-0.5*

===================
DISCHARGE LABS
===================
___ 05:10AM BLOOD WBC-6.0 RBC-4.68 Hgb-13.4 Hct-41.8 MCV-89 
MCH-28.6 MCHC-32.1 RDW-14.4 RDWSD-46.5* Plt ___
___ 05:10AM BLOOD Plt ___
___ 05:10AM BLOOD Glucose-105* UreaN-15 Creat-1.0 Na-142 
K-4.7 Cl-107 HCO3-27 AnGap-13
___ 05:10AM BLOOD Calcium-8.8 Phos-4.0 Mg-2.0
___ 05:10AM BLOOD tacroFK-12.1

=====================
MICROBIOLOGY
=====================
Urine culture ___ - ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 

Blood culture ___ x2 - NGTD
Blood culture ___ x2 - NGTD

======================
IMAGING
======================
Renal transplant ultrasound ___:
1. Mild to moderate hydronephrosis in the transplant kidney, 
seen on prior MRI 
from ___, but appears worse. 
2. Diffusely elevated resistive indices 
 
Brief Hospital Course:
Information for Outpatient Providers: ___ with history of Type 
II diabetes, ESRD s/p renal transplant in ___ and recurrent 
pulmonary infections presenting with MDR UTI.

# UTI: Patient with chronic colonization vs recurrent UTIs 
presented with continued suprapubic pain, urinary burning, and 
flank pain. Culture at outpatient nephrologist office on ___ 
showed Ecoli UTI sensitive only to meropenem, gentamicin, 
macrobid. Was started on IV meropenem upon admission. Infectious 
disease was consulted and sensitivities were sent for ertapenem 
given easier ability to dose medication. Per ID, recommended 
discharge on ertapenem with end date ___. Patient 
received a midline prior to discharge for intravenous 
antibiotics.

Patient was scheduled for Urology appointment to assess 
urodynamic studies to evaluate cause of recurrent urinary tract 
infections. She has follow up appointment with transplant 
infectious disease as well. 

# Renal transplant: s/p renal transplant in ___ on tacro and 
MMF. Renal ultrasound showed worsening hydronephrosis on imaging 
with elevated resistive indices, thought to be consistent with 
infection. Tacrolimus levels were drawn and were elevated at 
12.1. Her tacrolimus was decreased to 1.5 mg PO BID.

CHRONIC ISSUES:
#HTN: Continued metoprolol tartrate 50mg BID 
# Cough/chronic sinusitis: Chronic cough in setting of recurrent 
sinusitis, bronchitis. Stable on admission. Continued home 
medications.
# Diabetes: Continued glargine and HISS with Humalog standing at 
meals. Humalog was decreased to 6 mg at breakfast, 6 units at 
lunch, and 6 units at dinner. 
#Anxiety/bipolar disorder: Continued home lorazepam, 
nortriptyline, sertraline, lamotrigine.
#Osteoporosis: Continued alendronate, vitamin D.
#Hypothyroid: Continued home levothyroxine.

TRANSITIONAL ISSUES:
- Tacrolimus dose was changed from 2 mg PO BID to 1.5 mg PO BID. 

- Please obtain repeat tacrolimus level at next visit. 
- Please continue IV ertapenem with end date ___ per ID 
recommendations. 
- Please obtain a repeat ultrasound of the transplanted kidney 
after treatment of the urinary tract infection, given evidence 
of hydronephrosis.
- Patient will benefit from Urology consultation and follow-up 
to asses urodynamic studies.
- Please discuss need for Bactrim given immunosuppression and 
renal transplant. This can be assess with patient's transplant 
nephrologist. 
- Please discuss need for suppressive antibiotics given history 
of recurrent urinary tract infections. This should be discussed 
at patient's next transplant ID appointment with Dr. ___. 
- Patient noted to have systolic blood pressures 140s-150s 
during hospitalization. Please consider titration of 
anti-hypertensive regimen as an outpatient. 
- Consider MRI of abdomen if patient continues to experience 
flank pain/pain at site of the transplanted kidney. 
- Code Status: Full 
- Contact Information: Husband ___ ___  
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN SOB 
2. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing 
3. Alendronate Sodium 70 mg PO QSUN 
4. Atorvastatin 80 mg PO QPM 
5. Cetirizine 10 mg PO QHS 
6. Vitamin D 1000 UNIT PO DAILY 
7. Guaifenesin-Dextromethorphan 60/1200 mg PO BID:PRN cough 
8. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
9. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
10. LamoTRIgine 200 mg PO DAILY 
11. Glargine 16 Units Bedtime
Humalog 12 Units Breakfast
Humalog 12 Units Lunch
Humalog 12 Units Dinner
Insulin SC Sliding Scale using UNK Insulin
12. Levothyroxine Sodium 50 mcg PO DAILY 
13. LORazepam 2 mg PO QHS 
14. Metoprolol Tartrate 50 mg PO BID 
15. Mycophenolate Mofetil 500 mg PO BID 
16. Nortriptyline 50 mg PO QHS 
17. Sertraline 150 mg PO DAILY 
18. Tacrolimus 2 mg PO Q12H 
19. Cyanocobalamin 1000 mcg IM/SC MONTHLY 
20. LORazepam 1 mg PO BID:PRN anxiety 

 
Discharge Medications:
1. Ertapenem Sodium 1 g IV 1X Duration: 1 Dose 
RX *ertapenem [___] 1 gram 1 gram IV daily Disp #*11 Vial 
Refills:*0
RX *ertapenem [Invanz] 1 gram 1 gram IV daily Disp #*9 Vial 
Refills:*0
2. Glargine 16 Units Bedtime
Humalog 6 Units Breakfast
Humalog 6 Units Lunch
Humalog 6 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
3. LamoTRIgine 200 mg PO DAILY 
4. Levothyroxine Sodium 50 mcg PO DAILY 
5. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN SOB 
6. Atorvastatin 80 mg PO QPM 
7. Cetirizine 10 mg PO QHS 
8. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
9. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
10. LORazepam 2 mg PO QHS 
11. Metoprolol Tartrate 50 mg PO BID 
12. Mycophenolate Mofetil 500 mg PO BID 
13. Nortriptyline 50 mg PO QHS 
14. Sertraline 150 mg PO DAILY 
15. Vitamin D 1000 UNIT PO DAILY 
16. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing 
17. Alendronate Sodium 70 mg PO QSUN 
18. Cyanocobalamin 1000 mcg IM/SC MONTHLY 
19. Guaifenesin-Dextromethorphan 60/1200 mg PO BID:PRN cough 
20. LORazepam 1 mg PO BID:PRN anxiety 
21. Tacrolimus 1.5 mg PO Q12H 
22. Tacrolimus 0.5 mg PO Q12H 
RX *tacrolimus 0.5 mg 1 capsule(s) by mouth every twelve (12) 
hours Disp #*60 Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
=================
Primary Diagnosis
=================
-Multi-drug resistant urinary tract infection 

=================
Secondary diagnosis
===================
-s/p Kidney transplant
-Hypertension
-Hyperlipidemia
-Anxiety/Depression
-Type II Diabetes Mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were transferred to ___ because you had a urinary tract 
infection (UTI) which was resistant to antibiotics by mouth. You 
were started on an IV antibiotic called ertapenem, and you were 
discharged with an IV line in place to continue getting your IV 
antibiotic. 

Please take note of the following:
- Please continue your intravenous ertapenem with end date ___. You received an additional prescription to get your IV 
antibiotics until ___. Initially it was scheduled until ___, but infectious disease's new recommendation is until ___. 
- Your tacrolimus level was decreased to 1.5 milligrams by mouth 
EVERY 12 HOURS. Please take 1.5 milligrams by mouth EVERY 12 
HOURS. 
- Your Humalog with meals was also decreased from 12 units with 
breakfast, 12 units with lunch, and 12 units with dinner, to 6 
units with breakfast, 6 units with lunch, and 6 units with 
dinner. 
- Please attempt to have scheduled urination every ___ hours 
rather than waiting until you have the urge to urinate. This can 
help reduce the number of urinary tract infections you may 
experience.
-Please discuss with your transplant nephrologist whether you 
need to be on Bactrim (trimethoprim-sulfamethoxazole). Please 
call your transplant nephrologist (Dr. ___ to discuss 
this).  

It was a pleasure taking care of you during your 
hospitalization! We wish you all the best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___